US05576324
2-Glycylaminomethyl-5-methyl-2,3,6,7-tetrahydrofuro-[2,3-f]quinoline-7-one.
2-Carbobenzyloxyglycylaminomethyl-5-methyl-2,3,6,7-tetrahydrofuro-[2,3-f]quinoline-7-one (2.00 g, 4.75 mmol) was dissolved in dimethylformamide (250 ml). To the obtained solution, 10% palladium-on-carbon (2.00 g) was added, followed by stirring at room temperature for 3 hours in the atmosphere of hydrogen. The reaction mixture was filtered, and the filtrate was condensed under reduced pressure. The resultant residue was dissolved in methanol (20 ml), to which 4N-HCl/dioxane (1.2 ml) was added, and the mixture was condensed under reduced pressure at room temperature. The resultant residue was submitted to a recrystallizing procedure using methanol--ether to obtain 1.45 g of the title compound as pale yellow powdery crystals (94.6%).

reactant | 2-Carbobenzyloxyglycylaminomethyl-5-methyl-2,3,6,7-tetrahydrofuro-[2,3-f]quinoline-7-one | 4.75 mmol, 2.00 g | C(=O)(OCC1=CC=CC=C1)C(N)C(=O)NCC1CC=2C(=C3C=CC(NC3=C(C2)C)=O)O1 | C23H23N3O5
reactant | hydrogen | [H][H] | H2
reactant | ether | CCOCC | C4H10O
solvent | dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
solvent | methanol | 20 ml | CO | CH4O
solvent | HCl dioxane | 1.2 ml | Cl.O1CCOCC1
catalyst | palladium-on-carbon | 2.00 g | [Pd] | Pd
product | 2-Glycylaminomethyl-5-methyl-2,3,6,7-tetrahydrofuro-[2,3-f]quinoline-7-one | 1.45 g, 94.6% | NCC(=O)NCC1CC=2C(=C3C=CC(NC3=C(C2)C)=O)O1 | C15H17N3O3
